US09062085B2
Preparation of (3,5-dimethoxyphenyl)bis(3,5-dimethylphenyl)phosphine oxide
1-Bromo-3,5-dimethoxybenzene (20.2 g, 93 mmol) in THF (80 ml) was added to a flask (500 ml) with magnesium (2.4 g, 99 mmol) and I2 (20 mg) in THF (100 ml) at 60° C. The mixture was refluxed for 2 h after the addition was completed. It was cooled to RT. The resulting light brown solution was transferred to another flask (250 ml). It was cooled to −78° C. Chlorobis(3,5-dimethylphenyl)phosphine (27.4 g, 99 mmol) in THF (100 ml) was added dropwise at −78° C. within 1 h. The resulting mixture was stirred at −78° C. for 0.5 h, then was slowly warmed up to RT and stirred at RT for 30 min. To the resulting reactions, H2O (100 ml) was added, then H2O2 (25 ml, 30%) was added dropwise at 0° C. The mixture was stirred for 0.5 h at RT. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with brine (200 ml×2), NaHSO3 (Saturated, 200 ml×3) and dried over MgSO4. It was filtered and the solvent was removed. The viscous residues were stirred with CH2Cl2/Hexane (20 ml/800 ml) for 1 h. The solid was collected by filtration to give the product as a colorless solid (32.3 g, 88% yield). 1H NMR (300 MHz, CD2Cl2) δ: 7.29 (br, 2H), 7.24 (br, 2H), 7.20 (br, 2H), 6.79-6.77 (m, 1H), 6.75-6.73 (m, 1H), 6.63-6.60 (m, 1H), 3.78 (s, 6H), 2.34 (s, 12H). 31P NMR (121.5 MHz, CD2Cl2) δ: 29.4.

reactant | 1-Bromo-3,5-dimethoxybenzene | 93 mmol, 20.2 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | magnesium | 99 mmol, 2.4 g | [Mg] | Mg
reactant | Chlorobis(3,5-dimethylphenyl)phosphine | 99 mmol, 27.4 g | ClP(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C16H18ClP
reactant | H2O2 | 25 ml | OO | H2O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | I2 | 20 mg | II | I2
solvent | H2O | 100 ml | O | H2O
product | (3,5-dimethoxyphenyl)bis(3,5-dimethylphenyl)phosphine oxide | 32.3 g, 88% yield | COC=1C=C(C=C(C1)OC)P(C1=CC(=CC(=C1)C)C)(C1=CC(=CC(=C1)C)C)=O | C24H27O3P
